US09233104B2
A degassed mixture of N-(2-bromo-6-nitrophenyl)acetamide (XCI) (2.59 g, 10 mmol, 1.0 eq), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (XCII) (2.05 g, 10 mmol, 1.3 eq), Na2CO3 (2.12 g, 20 mmol, 2 eq) and Pd(PPh3)4 (1.16 g, 1 mmol, 0.1 eq) in a mixed solvent of DME (30 mL) and H2O (10 mL) was heated to reflux under nitrogen overnight, the mixture was poured onto water (40 ml) and extracted with ethyl acetate (30 mL×3). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo, purification the resultant residue was purified by column chromatography (EtOAc:PE=1:4→100% EtOAc) to afford N-(2-nitro-6-(pyridin-4-yl)phenyl)acetamide (XCIII) (1.42 g, 5.52 mmol, 55% yield) as a yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ ppm 1.92 (s, 3H), 7.46 (d, J=5.6 Hz, 2H), 7.69 (t, J=8 Hz, 1H), 7.80 (dd, J=7.6 Hz, J=1.2 Hz, 1H), 8.06 (dd, J=8 Hz, J=1.6 Hz, 1H), 8.73 (d, J=6 Hz, 2H), 9.96 (s, 1H); ESIMS found for C13H11N3O3 m/z 258 (M+H).

reactant | N-(2-bromo-6-nitrophenyl)acetamide | 10 mmol, 2.59 g, 1.0 eq | BrC1=C(C(=CC=C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 10 mmol, 2.05 g, 1.3 eq | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | Na2CO3 | 20 mmol, 2.12 g, 2 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 30 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1 mmol, 1.16 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 10 mL | O | H2O
product | N-(2-nitro-6-(pyridin-4-yl)phenyl)acetamide | 5.52 mmol, 1.42 g, 55% yield | [N+](=O)([O-])C1=C(C(=CC=C1)C1=CC=NC=C1)NC(C)=O | C13H11N3O3
